Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lipitor / Pravachol / Crestor / simvastatin / ezetimibe
 
Attending: ___.
 
Chief Complaint:
fatigue, lightheadedness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms ___ is a pleasant ___ female with a history of R 
breast ca, hyperlipidemia, baseline occult word-finding 
difficulties and prediabetes presenting with ___ days of 
malaise, 1 day rigors, and lightheadedness, worsening 
word-finding difficulties.  At outpt eval, patient was found to 
be orthostatic with standing blood pressures of 70/30 and heart 
rate of 100, given her systemic symptoms she was sent to the 
emergency department for evaluation. Patient reported to the ED 
that she attributed her fatigue to some home projects she was 
doing on ___, then she slept all day ___. She told the 
ED that she has had malaise and fatigue since then but denies 
fever, headache, visual changes, chest pain, SOB, cough, n/v/abd 
pain/diarrhea/abd pain.  

In the ED, initial vitals were:  98.8 96 98/59 18 100% RA.  She 
was found to have an elevated CRP and anemia.  Flu swab was sent 
and was negative.  She was guaiac negative.  Hemolysis labs were 
sent and showed elevated LDH, low haptoglobin, hypophphotemia, 
and parasite smear was sent and was positive for parasitemia, 
final dx pending.  She was given Tylenol and 1 L NS.  No recent 
travel.  
 
On the floor, pt is sleepy, becomes more alert during the 
interview but is unable to tell me exactly why she presented to 
___ yesterday. She has no complaints currently.  Tells me she 
traveled to ___ but unable to tell me when exactly, no other 
recent travel.  Aao to hospital, date, but not year.  Endorses 
tick bite in ___.  I attempted to call her husband to confirm 
___ MS and details of hx, however no answer.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 10 
pt ros otherwise negative.

 
Past Medical History:
(per chart, pt unable to confirm):
PRE-DIABETES
ELEVATED CHOLESTEROL & LDL
MONOCLONAL GAMMOPATHY OF UNCERTAIN SIGNIFICANCE
S/P MODIFIED RADICAL MASTECTOMY
MIGRAINE HEADACHES
OSTEOARTHRITIS
OSTEOPENIA
SKIN CANCERS
SINUSITIS
 
Social History:
___
Family History:
MotherMULTIPLE MYELOMA
FatherSTROKE
 
Physical Exam:
Vitals: 97.4     PO___ 
Gen: Lying in bed in no apparent distress, awake and alert
HEENT: AT, NC, PERRL, EOMI, MMM, hearing grossly intact
CV: S1, S2, RRR no M/R/G
Pulm: CTA b/l, no wheeze, rhonchi, or rales
GI: (+) BS, soft, NT, ND, no HSM 
MSK: No edema
Skin: No rashes or ulcerations evident
Neuro: A+O x4, speech fluent, face symmetric, moving all 
extremities
Psych: calm mood, appropriate affect
 
Pertinent Results:
ADMISSION LABS: 
==============
___ 09:30PM URINE  HOURS-RANDOM
___ 09:30PM URINE  UHOLD-HOLD
___ 09:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:30PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-300* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:30PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 09:30PM URINE  MUCOUS-RARE*
___ 08:29PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 08:23PM   LACTATE-1.0
___ 08:14PM   GLUCOSE-217* UREA N-17 CREAT-0.6 SODIUM-132* 
POTASSIUM-4.3 CHLORIDE-97 TOTAL CO2-23 ANION GAP-12
___ 08:14PM   ALT(SGPT)-37 AST(SGOT)-38 LD(LDH)-513* ALK 
PHOS-55 TOT BILI-0.8
___ 08:14PM   ALBUMIN-3.5 CALCIUM-7.9* PHOSPHATE-1.6* 
MAGNESIUM-1.7
___ 08:14PM   HAPTOGLOB-<10*
___ 08:14PM   WBC-3.6* RBC-3.08* HGB-9.3* HCT-28.8* MCV-94 
MCH-30.2 MCHC-32.3 RDW-15.0 RDWSD-51.5*
___ 08:14PM   NEUTS-62 BANDS-0 ___ MONOS-10 EOS-0 
BASOS-0 ATYPS-1* ___ MYELOS-0 AbsNeut-2.23 AbsLymp-1.01* 
AbsMono-0.36 AbsEos-0.00* AbsBaso-0.00*
___ 08:14PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 08:14PM   PLT SMR-LOW* PLT COUNT-107*
___ 08:14PM   PARST SMR-POSITIVE*
___ 08:14PM   RET AUT-3.5* ABS RET-0.11*
___ 02:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:30PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-30* 
GLUCOSE-300* KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 02:30PM URINE  RBC-7* WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-4
___ 02:30PM URINE  HYALINE-2*
___ 02:30PM URINE  MUCOUS-OCC*
___ 01:50PM   GLUCOSE-194* UREA N-21* CREAT-0.7 SODIUM-136 
POTASSIUM-4.7 CHLORIDE-101 TOTAL CO2-25 ANION GAP-10
___ 01:50PM   estGFR-Using this
___ 01:50PM   ALT(SGPT)-51*
___ 01:50PM   %HbA1c-6.2* eAG-131*
___ 01:50PM   CRP-109.8*
___ 01:50PM   WBC-3.8* RBC-3.73* HGB-11.3 HCT-34.4 MCV-92 
MCH-30.3 MCHC-32.8 RDW-15.0 RDWSD-50.4*
___ 01:50PM   NEUTS-51.9 ___ MONOS-18.8* EOS-0.0* 
BASOS-0.8 IM ___ AbsNeut-1.98# AbsLymp-1.07* AbsMono-0.72 
AbsEos-0.00* AbsBaso-0.03
___ 01:50PM   PLT COUNT-124*

LABS:
prior labs, imaging and records reviewed in ___

STUDIES:
Head CT: no acute intracranial process
CXR:No acute cardiopulmonary process. No significant interval 
change since ___ 
EKG: NSR, no acute ST/TW changes

MICRO: 
___ 08:14PM BLOOD Parst S-POSITIVE* 0.3%
___ 06:46AM BLOOD Parst S-POSITIVE* 0.2%

___ 1:50 pm Blood (LYME)
   Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 
   Lyme IgM (Preliminary): 
      Sent to ___ Laboratories for Lyme Western Blot testing. 

Test                          Result              Reference 
Range/Units
A. PHAGOCYTOPHILUM IGG        <1:64               <1:64
A. PHAGOCYTOPHILUM IGM        <1:20               <1:___ yo F who initially presented with weakness, fatigue, found to 
have hemolytic anemia and parasites on blood smear concerning 
for babesiosis.

# hemolysis and
# thrombocytopenia due to
# parasitemia/likely babesiosis: 
Pt with intracellular parasites on blood smear. 0.3% parasitemia 
improved to 0.2% after starting treatment. Without evidence of 
pulm, hepatic or renal compromise.  Pt reports no travel to 
malaria endemic areas, does report tick bite, therefore most 
likely babesiosis.  ID was consulted and recommended a 10-day 
course of atovaquone/azithro for treatment of babesiosis and a 
10-day course of doxycycline for empiric Lyme. If Lyme studies 
are negative, doxycycline can be stopped before completion of 
course. Anaplasma titers negative. 

Transitional issues: 
==============
- stop doxycycline if Lyme western blot negative
- f/u lyme studies

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Ezetimibe 5 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1.  Atovaquone Suspension 750 mg PO BID 
RX *atovaquone 750 mg/5 mL 750 mg by mouth twice a day 
Refills:*0 
2.  Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*8 
Tablet Refills:*0 
3.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*17 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Ezetimibe 5 mg PO 3X/WEEK (___)  
6.  Loratadine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intracellular parasitemia, likely Babesiosis.
Orthostatic hypotension
Hemolytic anemia
Thrombocytopenia
Electrolyte abnormalities
Toxic metabolic encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for generalized weakness and 
anemia. You were found to have a parasite in your blood that you 
contracted from a tick bite. You were seen by the Infectious 
Diseases physicians and started on antimicrobials. Your symptoms 
improved and the number of parasites in your blood decreased. 
You are being discharged on these same medications which should 
you take as prescribed. You have an appointment with the 
Infectious Diseases Clinic in one week, at which time, they will 
draw labs to check your anemia and parasite levels. If your Lyme 
test is negative, you will be asked to stop taking the 
doxycycline.
 
Followup Instructions:
___